US07238808B2
4-[8-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-benzamide
The title compound was prepared from 3-ethynyl-8-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine (example C.18) (360 mg, 1 mmol) and commercially available 4-bromobenzamide (203 mg, 1 mmol) according to general procedure II. Obtained as a white solid (80 mg, 16%). MS (ISP) 474.2 [(M+H)+]; mp 286° C.

reactant | 3-ethynyl-8-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine | 1 mmol, 360 mg | C(#C)C1=CN=C2N1C=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C17H8F6N2
reactant | 4-bromobenzamide | 1 mmol, 203 mg | BrC1=CC=C(C(=O)N)C=C1 | C7H6BrNO
product | 4-[8-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-benzamide | FC(C=1C=2N(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(=CN2)C#CC2=CC=C(C(=O)N)C=C2)(F)F | C24H13F6N3O
